US08008303B2
5′-(Cyclopropanecarbonyl-amino)-2′-methoxy-biphenyl-4-carboxylic acid
A mixture of 5′-(cyclopropanecarbonyl-amino)-2′-methoxy-biphenyl-4-carboxylic acid ethyl ester (88 mg) in ethanol (7 ml) and 2M sodium hydroxide (4 ml) was stirred at 20 C for 18 h. The ethanol was then evaporated and the residue acidified. The solid thus formed was collected by filtration and dried (55 mg)

reactant | 5′-(cyclopropanecarbonyl-amino)-2′-methoxy-biphenyl-4-carboxylic acid ethyl ester | 88 mg | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)NC(=O)C1CC1)OC | C20H21NO4
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 2M, 4 ml | [OH-].[Na+]
product | 5′-(Cyclopropanecarbonyl-amino)-2′-methoxy-biphenyl-4-carboxylic acid | C1(CC1)C(=O)NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)O)OC | C18H17NO4
